US07244725B2
To a suspension of the 0.3 M neopentyl zinc reagent in THF (60 ml, 15 mmol) was added the tert-butyl (4S)-6-iodo-3,4-dihydro-2H-chromen-4-ylcarbamate (1.8 g, 5.0 mmol) and Pd(dppf)Cl2 (0.2 g, 0.25 mmol) as solids in one portion. The mixture was stirred at r.t. under nitrogen for 48 hours (progress monitored by LC/MS and HPLC). The mixture was quenched with aqueous NH4Cl (20 ml) and extracted with EtOAc (3×50 ml). The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude residue was dissolved in MeOH(25 ml) and treated with DOWEX® 50WX2-400 ion exchange resin. The mixture was heated to 50° C. for six hours and then the resing was collected by filtration. The resin was washed successively with MeOH and CH2Cl2 these washings were discarded. The resin was then treated with 7 N NH3/MeOH to elute the free amine from the resin. The elutions were concentrated in vacuo to yield a light brown oil (0.63 g, 57%) of (4S)-6-neopentyl-3,4-dihydro-2H-chromen-4-ylamine. This material was consistent with previous preparations and was used as obtained for the subsequent opening of the di-fluoroPhe epoxide. S)-6-neopentyl-3,4-dihydro-2H-chromen-4-ylamine was previously characterized as the mono.HCl salt. 1H NMR (300 MHz, DMSO-d6) δ); 7.25 (s, 1H), 7.02 (m, 1H,), 6.76 (m, 1H), 4.47 (bs, 1H), 4.21 (m, 2H), 2.38 (s, 2H), 2.24 (m, 1H), 2.10 (m, 1H), 0.87 (s, 9H). HRMS (ESI+) calculated for C14H21N1O1 220.1701; found m/z 220.1698 (M+H)+. Anal. Calcd for C14H21NO.HCl: C, 65.74; H, 8.67; N, 5.48. Found: C, 65.62; H, 8.53; N, 5.42. [α]23D=15.6, c=1.17 in CH3OH.

reactant | neopentyl zinc | 0.3 M | C(C(C)(C)C)[Zn]
reactant | THF | 15 mmol, 60 ml | C1CCOC1 | C4H8O
reactant | tert-butyl (4S)-6-iodo-3,4-dihydro-2H-chromen-4-ylcarbamate | 5.0 mmol, 1.8 g | IC=1C=C2[C@H](CCOC2=CC1)NC(OC(C)(C)C)=O | C14H18INO3
catalyst | Pd(dppf)Cl2 | 0.25 mmol, 0.2 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (4S)-6-neopentyl-3,4-dihydro-2H-chromen-4-ylamine | 0.63 g, 57% | C(C(C)(C)C)C=1C=C2[C@H](CCOC2=CC1)N | C14H21NO
